US08685975B2
To a suspension of 2-methoxy-2-(4-morpholinophenyl)acetic acid (2.97 g, 11.8 mmol) in anhydr. CH2Cl2 (66 mL) in an oven-dried flask under argon was added N-methylmorpholine (3 mL, 27.3 mmol) and the resulting solution was cooled over ice. Isobutylchloroformate (1.8 mL, 13.76 mmol) was added dropwise. After stirring for 50 min, N,O-dimethylhydroxylamine hydrochloride (1.5 g, 15.3 mmol) was added and the mixture was allowed to warm slowly to room temp. After stirring for 16 hours, saturated aqueous NaHCO3 was added and the mixture stirred for >15 min. The mixture was diluted with CH2Cl2 and the layers were separated. The organics were washed with brine, dried over MgSO4/Na2SO4 and concentrated. Purification by chromatography (60-85% EtOAc-hexanes) gave N,2-dimethoxy-N-methyl-2-(4-morpholinophenyl) acetamide as an off-white solid (3.15 g, 90% yield).

reactant | 2-methoxy-2-(4-morpholinophenyl)acetic acid | 11.8 mmol, 2.97 g | COC(C(=O)O)C1=CC=C(C=C1)N1CCOCC1 | C13H17NO4
reactant | N-methylmorpholine | 27.3 mmol, 3 mL | CN1CCOCC1 | C5H11NO
reactant | Isobutylchloroformate | 13.76 mmol, 1.8 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 15.3 mmol, 1.5 g | Cl.CNOC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 66 mL | C(Cl)Cl | CH2Cl2
product | N,2-dimethoxy-N-methyl-2-(4-morpholinophenyl) acetamide | 3.15 g, 90% yield | CON(C(C(C1=CC=C(C=C1)N1CCOCC1)OC)=O)C | C15H22N2O4
